US05294718
To a solution of 4.3 g of 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde dimethylacetal in 40 ml of acetone was added 40 ml of 2N hydrochloric acid. After refluxing for 15 min, the reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated under a reduced pressure to give 3.5 g of 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde.

reactant | 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde dimethylacetal | 4.3 g | COC(C1=C(C=CC(=C1)N1CCC(CC1)O)[N+](=O)[O-])OC | C14H20N2O5
reactant | hydrochloric acid | 2N, 40 ml | Cl | ClH
reactant | water | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde | 3.5 g | OC1CCN(CC1)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C12H14N2O4
